US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(2,3,5-trifluoro-phenyl)-acrylonitrile (Compound 28)
2,3,5-Trifluorobenzaldehyde (320 mg) and 3,4-dimethoxybenzyl cyanide (354 mg) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (536 mg, yield: 84%).

reactant | 2,3,5-Trifluorobenzaldehyde | 320 mg | FC1=C(C=O)C=C(C=C1F)F | C7H3F3O
reactant | 3,4-dimethoxybenzyl cyanide | 354 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(2,3,5-trifluoro-phenyl)-acrylonitrile | 536 mg, yield: 84% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=C(C(=CC(=C1)F)F)F | C17H12F3NO2
